US05407916
Sodium hydride (4.08 g, 102 mmol, 60% by weight) is washed with hexanes and mixed with 30 mL of THF. The mixture is cooled to 0° C. and treated with a solution of di-tert-butyl malonate (10.0 g, 46.23 mmol) and N-(3-bromopropyl)phthalimide (24.7 g, 92.46 mmol) in 80 mL of THF. After the addition the reaction is allowed to stir at room temperature for 2 hours and then is heated to reflux overnight. The reaction is cooled and the volatiles are removed under reduced pressure. The residue is partitioned between water and chloroform. The organic layer is dried with Na2SO4 and the solvents are removed under reduced pressure. The resulting product is recrystallized from hexane-ethyl acetate to give 19.66 g of di-tert-butyl bis(3-phthalimidopropyl)malonate as a white solid.

reactant | Sodium hydride | 102 mmol, 4.08 g | [H-].[Na+]
reactant | di-tert-butyl malonate | 46.23 mmol, 10.0 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | N-(3-bromopropyl)phthalimide | 92.46 mmol, 24.7 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | di-tert-butyl bis(3-phthalimidopropyl)malonate | 19.66 g | C1(C=2C(C(N1CCCC(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)CCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C33H38N2O8
